US06326369B1
A solution of sodium dithionite (95.4 g, 0.548 mols) in water (330 ml) was added to a solution of 2,3-dimethoxy-5-methyl-1,4-benzoquinone (50 g, 0.274 mols) in diethyl ether (330 ml), and shaken for 15 minutes. The ether layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated in vacuo. The resulting crystals were washed with hexane to obtain 2,3-dimethoxy-5-methyl-1,4-hydroquinone (46.1 g).

reactant | sodium dithionite | 0.548 mols, 95.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 0.274 mols, 50 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
solvent | water | 330 ml | O | H2O
solvent | diethyl ether | 330 ml | C(C)OCC | C4H10O
product | 2,3-dimethoxy-5-methyl-1,4-hydroquinone | 46.1 g | CC1=CC(=C(C(=C1O)OC)OC)O | C9H12O4
